US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methoxy-benzyl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-methoxy-benzyl-amine

reactant | 1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=CC(=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-methoxy-benzyl-amine | COC1=C(CN)C=CC=C1 | C8H11NO
product | 2-[1-(3,4-Dimethoxy-benzyl)-6,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methoxy-benzyl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=CC(=C23)OC)OC)CC(=O)NCC2=C(C=CC=C2)OC)C=CC1OC | C30H36N2O6
